US07465737B2
14.1 8-Methyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 6 g (31.0 mmol) of ethyl 3-(pyridin-4-yl)-3-oxopropionate, 4.6 g (31.0 mmol) of 6-methyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrochloride (prepared according to J. Org. Chem., 20, 1955, 829-838) and 6.44 g (46.0 mmol) of potassium carbonate in 50 ml of ethanol was heated at reflux temperature during 18 h. The reaction mixture was cooled and the solvent removed by evaporation. The residue obtained was treated with water and the precipitate recovered by filtration to give 3.85 g (51%) of product. Mp.: 245-247° C.

reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 31.0 mmol, 6 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 6-methyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrochloride | 31.0 mmol, 4.6 g | Cl.CC1CCN=C(N1)N
reactant | potassium carbonate | 46.0 mmol, 6.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-Methyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 3.85 g, 51% | CC1NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1 | C13H14N4O
